US09447090B2
To a mixture of 5.8 mg of 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid, 6.1 mg of (S)-(+)-2-phenylglycine methyl ester hydrochloride, 2.7 mg of 1-hydroxybenzotriazole, 700 μl of DMF, and 19 μl of diisopropylethylamine was added 50 mg of polystyrene N-cyclohexylcarbodiimide-N′-propyloxymethyl (PS-Carbodiimide manufactured by Biotage), followed by stirring at room temperature for 20 hours. Subsequently, 50 mg of macroporous triethylammonium methylpolystyrene carbonate (MP-Carbonate manufactured by Biotage) and 50 mg of polystyrene methyl isocyanate (PS-Isocyanate manufactured by Biotage) were added thereto, followed by stirring at room temperature for 2 hours. The resin was removed by filtration, the filtrate was concentrated under reduced pressure, and to the obtained residue were added 100 μl of THF, 200 μl of methanol, and 50 μl of a 1 M aqueous sodium hydroxide solution, followed by stirring at 50° C. for 20 hours. To the reaction mixture that had been left to be cooled to room temperature were added 0.5 ml of water and 50 μl of 1 M hydrochloric acid, followed by concentration under reduced pressure. The obtained residue was purified by preparative HPLC to obtain 6.7 mg of (2S)-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)(phenyl)acetic acid.

reactant | 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 5.8 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)O | C16H20N2O3
reactant | (S)-(+)-2-phenylglycine methyl ester hydrochloride | 6.1 mg | Cl.COC([C@@H](N)C1=CC=CC=C1)=O
reactant | 1-hydroxybenzotriazole | 2.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 19 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Carbodiimide | N=C=N | CH2N2
reactant | triethylammonium | 50 mg | C(C)[NH+](CC)CC
reactant | Carbonate | C([O-])([O-])=O
reactant | Isocyanate | [N-]=C=O
solvent | DMF | 700 μl | CN(C)C=O | C3H7NO
product | (2S)-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)(phenyl)acetic acid | 6.7 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@H](C(=O)O)C2=CC=CC=C2 | C24H27N3O4
